US05959107
According to the method in Example 10, a mixture of 5-isoquinolinethiol 150 mg (0.9 mmol), DMF 5 ml, potassium carbonate 250 mg (1.8 mmol) and 7-chloro-2-methyl-6-nitro-3,4-dihydro-4-quinazolinone 200 mg (0.8 mmol) was stirred at room temperature for 2 hours, and 7-(5-isoquinolylsulfanyl)-2-methyl-6-nitro-3,4-dihydro-4-quinazolinone 260 mg (83.7%) was obtained.

reactant | 5-isoquinolinethiol | 0.9 mmol, 150 mg | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | potassium carbonate | 1.8 mmol, 250 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-chloro-2-methyl-6-nitro-3,4-dihydro-4-quinazolinone | 0.8 mmol, 200 mg | ClC1=C(C=C2C(NC(=NC2=C1)C)=O)[N+](=O)[O-] | C9H6ClN3O3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 7-(5-isoquinolylsulfanyl)-2-methyl-6-nitro-3,4-dihydro-4-quinazolinone | 260 mg, 83.7% | C1=NC=CC2=C(C=CC=C12)SC1=C(C=C2C(NC(=NC2=C1)C)=O)[N+](=O)[O-] | C18H12N4O3S
